US09340538B2
Step B: Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(1,3,4-thiadiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate
Ethyl 4-(2-bromo-4-fluorophenyl)-6-methyl-2-(1,3,4-thiadiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (1.06 g, 2.5 mmol) was reacted with NBS (0.5 g, 2.8 mmol) according to the procedure as described in Example 1, Step B to give the title compound as a yellow solid (0.89 g, 71%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-bromo-4-fluorophenyl)-6-methyl-2-(1,3,4-thiadiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 2.5 mmol, 1.06 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)C)C=1SC=NN1 | C16H14BrFN4O2S
reactant | NBS | 2.8 mmol, 0.5 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
product | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(1,3,4-thiadiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 0.89 g, 71% | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CBr)C=1SC=NN1 | C16H13Br2FN4O2S
